US04886814
(b) N-[2-(4-Carbomethoxymethoxyphenyl)ethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine
0.6 g (1.6 mmol) of N-[2-(4-Methoxyphenyl)ethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine are heated on a steam bath with 6 ml of 48% strength aqueous hydrobromic acid for 3 hours. The mixture is then concentrated, toluene is added, and the mixture is again evaporated to dryness. The foamy residue is boiled under reflux in 15 ml of acetone with 1.2 g (8.7 mmol) of potassium carbonate and 0.3 ml (1.65 mmol) of methyl bromoacetate for 1 hour. The mixture is then filtered, the filtrate is concentrated, and the residue is purified on a silica gel column using toluene/acetone=4:1.

reactant | N-[2-(4-Methoxyphenyl)ethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | 1.6 mmol, 0.6 g | COC1=CC=C(C=C1)CCN1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C17H19F3N2O2S
reactant | hydrobromic acid | Br | BrH
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.65 mmol, 0.3 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | N-[2-(4-Carbomethoxymethoxyphenyl)ethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | C(=O)(OC)COC1=CC=C(C=C1)CCN1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C19H21F3N2O4S
